US08349851B2
To a solution of 4-chloro-2-(difluoro(4-fluorophenyl)methyl)-7-fluoroquinazoline (0.160 g, 0.492 mmol) in DMF (2 mL) at rt were added potassium iodide (0.082 g, 0.492 mmol), DIEA (0.094 mL, 0.541 mmol) and 5-methyl-1H-pyrazol-3-amine (0.048 g, 0.492 mmol). After stirring the reaction mixture at 50° C. overnight, the mixture was cooled to rt and H2O (15 mL) was added. The precipitate was collected by filtration and washed with H2O. The crude product was purified on HPLC (Phenomenex phenylhexyl reverse phase column, eluted with gradient of solvent B=0.05% HOAc/CH3CN and solvent A=0.05% HOAc/H2O) to afford 2-(difluoro(4-fluorophenyl)methyl)-7-fluoro-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine as a white powder (36 mg, 19%). 1H NMR (300 MHz, DMSO-d6) δ 2.26 (s, 3H), 6.27 (s, 1H), 7.35 (t, 2H), 7.56 (m, 1H), 7.72-763 (m, 3H), 8.78 (m, 1H), 10.82 (s, 1H), 12.23 (s, 1H); LC-MS (ESI) m/z 388 (M+H)+.

reactant | 4-chloro-2-(difluoro(4-fluorophenyl)methyl)-7-fluoroquinazoline | 0.492 mmol, 0.160 g | ClC1=NC(=NC2=CC(=CC=C12)F)C(C1=CC=C(C=C1)F)(F)F | C15H7ClF4N2
reactant | potassium iodide | 0.492 mmol, 0.082 g | [I-].[K+]
reactant | DIEA | 0.541 mmol, 0.094 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 0.492 mmol, 0.048 g | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | 15 mL | O | H2O
product | 2-(difluoro(4-fluorophenyl)methyl)-7-fluoro-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine | 36 mg, 19% | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)F)(C1=CC=C(C=C1)F)F | C19H13F4N5
